US06677351B2
To a solution of 2,5-dibromopyridine (6.95 g, 29 mmol) in N,N-dimethylformamide (5 ml) was added methanol (3.56 ml) and 1M potassium tert-butoxide (32.3 ml) and the resulting mixture was stirred at room temperature for 18 hours. The resulting slurry was quenched with saturated aqueous ammonium chloride solution and partitioned between ethyl acetate and water. The crude product from the organic phase was chromatographed on silica gel eluting with a 1:9 mixture of ether and hexane to afford the 5-Bromo-2-methoxypyridine compound as an oil.

reactant | 2,5-dibromopyridine | 29 mmol, 6.95 g | BrC1=NC=C(C=C1)Br | C5H3Br2N
reactant | methanol | 3.56 ml | CO | CH4O
reactant | potassium tert-butoxide | 1M, 32.3 ml | CC(C)([O-])C.[K+]
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 5-Bromo-2-methoxypyridine | BrC=1C=CC(=NC1)OC | C6H6BrNO
